US07786113B2
3-(6-Isopropoxycarbonylamino-3H-imidazo[4,5-b]pyridin-2-yl)-benzoic acid
was prepared starting from 3-carboxybenzaldehyde and 2,3-diamino-5-nitropyridine as described for 10-1. In the final step, after reacting with isopropyl chloroformate in NMP, the reaction mixture was treated with 100 mg sodium hydroxide and 1 ml water for 1 hr at room temperature. The crude product was precipitated by addition of 30 ml water and filtered off. It was further purified by dissolving in 50 ml aqueous sodium carbonate solution and washing with dichloromethane. The carbonate solution was acidified to pH 2-3 by addition acetic acid and HCl, and extracted with dichloromethane. The dichloromethane phase was evaporated to give 61 mg of the title product.

reactant | 3-carboxybenzaldehyde | C(=O)(O)C=1C=C(C=O)C=CC1 | C8H6O3
reactant | 2,3-diamino-5-nitropyridine | NC1=NC=C(C=C1N)[N+](=O)[O-] | C5H6N4O2
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | sodium hydroxide | 100 mg | [OH-].[Na+]
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | 1 ml | O | H2O
product | 3-(6-Isopropoxycarbonylamino-3H-imidazo[4,5-b]pyridin-2-yl)-benzoic acid | 61 mg | C(C)(C)OC(=O)NC=1C=C2C(=NC1)NC(=N2)C=2C=C(C(=O)O)C=CC2 | C17H16N4O4
